US04226860
1,3,4,9-Tetrahydro-1,1-dimethylpyrano[3,4-b]indole (5 g, 25 mmole, described by C. A. Demerson et al., cited above) was added portionwise to a suspension of sodium hydride (3 g, 58% dispersion in mineral oil) in 25 ml of dry dimethylformamide. This was stirred at room temperature for one hour. Benzyl chloride (3.8 g, 30 mmole) was added dropwise with ice cooling. The temperature was raised to 40° C. for 30 min. The reaction was poured into ice-water and the mixture was extracted with diethyl ether, washed twice with water, dried and evaporated. The solid residue (10 g) was chromatographed on silica gel using 10% ethyl acetate in benzene to afford 4.5 of white solid which was crystallized from butanol to give 9-phenylmethyl-1,3,4,9-tetrahydro-1,1-dimethylpyrano[3,4-b]indole, mp 132°-134° C.

reactant | 1,3,4,9-Tetrahydro-1,1-dimethylpyrano[3,4-b]indole | CC1(OCCC2=C1NC1=CC=CC=C21)C | C13H15NO
reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | Benzyl chloride | 30 mmole, 3.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 9-phenylmethyl-1,3,4,9-tetrahydro-1,1-dimethylpyrano[3,4-b]indole | C1(=CC=CC=C1)CN1C2=C(C3=CC=CC=C13)CCOC2(C)C | C20H21NO
